US06518390B2
(2) Synthesis of 4-[3,5-bis(methoxycarbonyl)phenyl]-2-methyl-3-butyn-1-ol
Into a 1 liter four-necked flask equipped with a thermometer, a Dimroth condenser, an inlet for the nitrogen gas and a stirrer, 125 g (0.365 mole) of dimethyl 5-trifluoromethanesulfonyloxyisophthalate, 1.1 g (0.0419 mole) of triphenylphosphine, 0.275 g (0.00144 mole) of copper iodide and 33.73 g (0.401 mole) of 3-methyl-1-butyn-3-ol were placed and the nitrogen gas was passed through the flask. To the above mixture, 375 ml of dehydrated triethylamine and 200 ml of dehydrated pyridine were added and dissolved by stirring the mixture. After the flow of the nitrogen gas was continued for 1 hour, 0.3 g (0.000427 mole) of dichlorobis-(triphenylphosphine)palladium was quickly added and the resultant mixture was heated under the refluxing condition in an oil bath for 1 hour. Then, triethylamine and pyridine were removed by distillation in vacuo and a viscous brown solution was obtained. The solution was poured into 500 ml of water and the formed solid substances were separated by filtration and washed twice with 500 ml of water, 500 ml of a hydrochloric acid having a concentration of 5 mole/liter and 500 ml of water. The obtained solid substance was dried at 50° C. in vacuo and 98.8 g (the yield: 98%) of 4-[3,5-bis(methoxycarbonyl)phenyl]-2-methyl-3-butyn-1-ol was obtained.

reactant | dimethyl 5-trifluoromethanesulfonyloxyisophthalate | 0.365 mole, 125 g | FC(S(=O)(=O)OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC)(F)F | C11H9F3O7S
reactant | triphenylphosphine | 0.0419 mole, 1.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-methyl-1-butyn-3-ol | 0.401 mole, 33.73 g | CC(C#C)(C)O | C5H8O
reactant | triethylamine | 375 ml | C(C)N(CC)CC | C6H15N
catalyst | copper iodide | 0.00144 mole, 0.275 g | [Cu](I)I
catalyst | dichlorobis-(triphenylphosphine)palladium | 0.000427 mole, 0.3 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 500 ml | O | H2O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 4-[3,5-bis(methoxycarbonyl)phenyl]-2-methyl-3-butyn-1-ol | yield: 98% | COC(=O)C=1C=C(C=C(C1)C(=O)OC)C#CC(CO)C | C15H16O5
